US07915300B2
1-Methyl-2-imidazolecarboxaldehyde (5.0 mmol) and methyl-4-aminobenzoate (5.0 mmol) were mixed in MeOH (7 mL). Acetic acid (0.3 mL) was added and the mixture stirred for 30 minutes at room temperature. The reaction mixture was cooled, sodium cyanoborohydride (5.0 mmol) was added and the reaction allowed to stir at room temperature for a further 17 h. The reaction mixture was then concentrated under vacuum and partitioned between H2O and EtOAc. The aqueous layer was extracted with EtOAc, and the combined organic layers were washed with H2O, brine, dried over MgSO4 and the solvent removed under vacuum. The residue was purified by flash chromatography (silica gel, 5% MeOH in DCM) to give methyl 4-{[(1-methylimidazol-2-yl)methyl]amino}benzoate: m/z=246 in MS ES+ as a pale yellow solid which was used directly in the subsequent step.

reactant | 1-Methyl-2-imidazolecarboxaldehyde | 5.0 mmol | CN1C(=NC=C1)C=O | C5H6N2O
reactant | methyl-4-aminobenzoate | 5.0 mmol | COC(C1=CC=C(C=C1)N)=O | C8H9NO2
reactant | Acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 5.0 mmol | C(#N)[BH3-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | methyl 4-{[(1-methylimidazol-2-yl)methyl]amino}benzoate | CN1C(=NC=C1)CNC1=CC=C(C(=O)OC)C=C1 | C13H15N3O2
